US05747498
(6-Amino-7-chloro-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride
(7-Chloro-6-nitro-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine hydrochloride (166 mg, 0.295 mmol) and sodium dithionite (207 mg, 1.19 mmol) were stirred in 1.5 mL of formic acid for 4 hours at room temperature. 45 mL of methanol were added to the reaction mixture which was set aside for 16 hours at room temperature. The precipitate thus obtained was filtered, triturated with 3% sodium bicarbonate for 0.5 hours and refiltered. The solid was dissolved in 20 mL of 1N HCl in methanol and precipitated with 200 mL of ethyl ether. This was filtered and dried in vacuo at 70° C. to afford the title product, 72 mg (83%); mp 260°-265° C.

reactant | (7-Chloro-6-nitro-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine hydrochloride | 0.295 mmol, 166 mg | Cl.ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C)[N+](=O)[O-]
reactant | sodium dithionite | 1.19 mmol, 207 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | methanol | 45 mL | CO | CH4O
solvent | formic acid | 1.5 mL | C(=O)O | CH2O2
product | (6-Amino-7-chloro-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride | Cl.NC=1C=C2C(=NC=NC2=CC1Cl)NC1=CC(=CC=C1)C#C | InChI=1S/C16H11ClN4.ClH/c1-2-10-4-3-5-11(6-10)21-16-12-7-14(18)13(17)8-15(12)19-9-20-16;/h1,3-9H,18H2,(H,19,20,21);1H
